US05439917
Preparation of 2-chloro-3-methylpyrrolo[2,3-b]pyridine
3-methylpyrrolo[2,3-b]pyridine (0,5 g 0.0038 mol) was treated in 2 ml acetic acid with an equimolecular amount of sulfuryl chloride at 0° C. for 5 min. The mixture was allowed to warm to room temperature and was stirred for 5 min. After evaporation the residue was dissolved in methylene chloride and was treated with bicarbonate. The organic layer was separated, dried and removed under reduced pressure. Chromatography on silica gel eluting with ethyl acetate gave the desired product. (0,18 g 29%).

reactant | 3-methylpyrrolo[2,3-b]pyridine | 0.0038 mol, 0,5 g | CC1=CNC2=NC=CC=C21 | C8H8N2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-3-methylpyrrolo[2,3-b]pyridine | ClC1=C(C=2C(=NC=CC2)N1)C | C8H7ClN2
